US03957783
To solution of 5.0 g of N-methyl-2-acetylamino-3-benzoyl-4,5,6,7-tetrahydrobenzo[b]thiophene in 120 ml of ethanol, is added 2.7 g of potassium hydroxide in 60 ml of water. The mixture is heated at 95°C for 4 hours, evaporated under reduced pressure to a residue. Water is added to the residue and extracted with chloroform. The chloroform extracts are washed with water, dried over sodium sulfate, then evaporated under reduced pressure to give crystals, which are recrystallized from ethanol to give 2-methylamino-3-benzoyl-4,5,6,7-tetrahydrobenzo[b]thiophene as crystals having a melting point of 127.5° - 129.5°C.

reactant | N-methyl-2-acetylamino-3-benzoyl-4,5,6,7-tetrahydrobenzo[b]thiophene | 5.0 g | CN(C1=C(C2=C(S1)CCCC2)C(C2=CC=CC=C2)=O)C(C)=O | C18H19NO2S
reactant | potassium hydroxide | 2.7 g | [OH-].[K+]
solvent | ethanol | 120 ml | C(C)O | C2H6O
solvent | water | 60 ml | O | H2O
product | 2-methylamino-3-benzoyl-4,5,6,7-tetrahydrobenzo[b]thiophene | CNC1=C(C2=C(S1)CCCC2)C(C2=CC=CC=C2)=O | C16H17NOS
